US06340759B1
(231-2) 7-Methoxy-3-phenylisoquinoline-2-oxide
2-(2-Phenylethynyl)-5-methoxybenzaldehyde (0.48 g) was reacted with hydroxylamine hydrochloride (0.17 g) and sodium acetate (0.21 g) in ethanol (10 ml) at 60° C. for 2 hr. Potassium carbonate (0.3 g) and water (1 ml) were added to the reaction mixture, and it was heated under reflux for 12 hr. The reaction solution was evaporated. The resulting residue was extracted with methylene chloride, and then washed with brine and dried. The solvent was removed, and the resulting residue was purified by silica gel column chromatography (methylene chloride/methanol system), to give 0.30 g of the title compound as a yellowish brown amorphous.

reactant | 2-(2-Phenylethynyl)-5-methoxybenzaldehyde | 0.48 g | C1(=CC=CC=C1)C#CC1=C(C=O)C=C(C=C1)OC | C16H12O2
reactant | hydroxylamine hydrochloride | 0.17 g | Cl.NO
reactant | sodium acetate | 0.21 g | C(C)(=O)[O-].[Na+]
reactant | Potassium carbonate | 0.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
product | 7-Methoxy-3-phenylisoquinoline-2-oxide | 0.30 g | COC1=CC=C2C=C([N+](=CC2=C1)[O-])C1=CC=CC=C1 | C16H13NO2
